US07737145B2
4-(3,3,4,4,4-Pentafluorobutyl)benzenemethanol acetate (525 mg, 1.42 mmol) was heated to reflux with aqueous potassium hydroxide solution (40%; 399 μL, 2.84 mmol) in methanol (6 mL) for two hours. The residue was acidified with 1 M aqueous hydrochloric acid, and extracted with ethyl acetate. The combined organic layers were concentrated under reduced pressure. Flash chromatography gave 314 mg of 4-(3,3,4,4,4-pentafluorobutyl)benzenemethanol; 1H NMR (300 MHz, CDCl3) δ 7.33 (d, 2H), 7.21 (d, 2H), 4.68 (dbr, 2H), 2.91 (m, 2H), 2.32 (m, 2H), 1.71 (tbr, 1H) ppm.

reactant | 4-(3,3,4,4,4-Pentafluorobutyl)benzenemethanol acetate | 1.42 mmol, 525 mg | C(C)(=O)OCC1=CC=C(C=C1)CCC(C(F)(F)F)(F)F | C13H13F5O2
reactant | potassium hydroxide | 2.84 mmol, 399 μL | [OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
product | 4-(3,3,4,4,4-pentafluorobutyl)benzenemethanol | 314 mg | FC(CCC1=CC=C(C=C1)CO)(C(F)(F)F)F | C11H11F5O
